US05752982
B/Preparation of 4-Amino 7-Ethylindole
4-nitro 7-ethylindoline was reduced in the same manner than 6-nitro 7-ethylindoline. 6 g of indole recrystallized from a ethylacetate/isopropylic ether (1/3) mixture were obtained.

reactant | 4-nitro 7-ethylindoline | [N+](=O)([O-])C1=C2CCNC2=C(C=C1)CC | C10H12N2O2
reactant | 6-nitro 7-ethylindoline | [N+](=O)([O-])C1=CC=C2CCNC2=C1CC | C10H12N2O2
product | 4-Amino 7-Ethylindole | NC1=C2C=CNC2=C(C=C1)CC | C10H12N2
